US07348310B2
Synthesis of coumarin-3-carbonylamino-acetic Acid Methyl Ester (8G9C2)
To a round bottom flask containing methyl-glycine (89 mg, 1.00 mmol), 3-carboxy coumarine, anh. DCM (25 ml), under Ar, N′-(3 Dimethylaminopropil)-N-ethyl-carbodiimid hydrochlorid (EDC) (479 mg, 2.50 mmol) and DMAP (489 mg, 4.00 mmol) were added at room temperature. The resulting mixture was stirred for 1 h 30 min (total conversion was observed by TLC). Then, DCM (20 ml) was added and the solution was washed successively with aq. NaHCO3 (10 ml, sat) and brine (10 ml). The organic phase was dried (Na2SO4), filtered and concentrated. The resulting orange solid obtained was purified by flash LC (silica gel, grad hex:EtOAc 1:1 to 2:1) to give the title compound (445 mg, quant) as a colourless oil. Rf=0.08 (Hex/EtOAc 1:1).

reactant | methyl-glycine | 1.00 mmol, 89 mg | CNCC(=O)O | C3H7NO2
reactant | 3-carboxy coumarine | C(=O)(O)C=1C(OC2=CC=CC=C2C1)=O | C10H6O4
reactant | DCM | 20 ml | C(Cl)Cl | CH2Cl2
reactant | DCM | 25 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 4.00 mmol, 489 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | coumarin-3-carbonylamino-acetic Acid Methyl Ester | 445 mg | COC(CNC(=O)C=1C(OC2=CC=CC=C2C1)=O)=O | C13H11NO5
